US04056540
a. cis-6-Chloro-4-phenyl-N-(2-propyl)-1,3-benzodioxan-2-carboxamide
To a solution at room temperature of 6.0 g (20.6 mmoles) of cis-6-chloro-4-phenyl-1,3-benzodioxan-2-carboxylic acid and ca. 1 ml of anhydrous DMF (dimethylformamide) in 300 ml of anhydrous CH2Cl2 was added dropwise a solution of 8.95 ml (123.6 mmoles) of thionyl chloride in 50 ml of anhydrous CH2Cl2. After addition, the solution was stirred and refluxed for 2.5 hours. The solvent and excess SOCl2 were then removed under reduced pressure and the residue was flashed down twice with anhydrous benzene to remove traces of SOCl2. The residue was redissolved in ca. 200 ml of CH2Cl2 and a solution of 7.7 g (130 mmoles) of 2-aminopropane in ca. 50 ml of CH2Cl2 was added. Heat was evolved. The solution was mixed well and allowed to stand in a stoppered flask at room temperature for 65 hours.

reactant | cis-6-chloro-4-phenyl-1,3-benzodioxan-2-carboxylic acid | 20.6 mmoles, 6.0 g | ClC1=CC2=C(O[C@@H](O[C@@H]2C2=CC=CC=C2)C(=O)O)C=C1 | C15H11ClO4
reactant | DMF | ca. 1 ml | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 123.6 mmoles, 8.95 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-aminopropane | 130 mmoles, 7.7 g | NC(C)C | C3H9N
solvent | CH2Cl2 | 300 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | ca. 50 ml | C(Cl)Cl | CH2Cl2
product | cis-6-Chloro-4-phenyl-N-(2-propyl)-1,3-benzodioxan-2-carboxamide | ClC1=CC2=C(O[C@@H](O[C@@H]2C2=CC=CC=C2)C(=O)NC(C)C)C=C1 | C18H18ClNO3
